US05055596
(3R*,4R*)-3-Methyl-4-(tetrahydropyran-2-yloxy)-1-pentyne
To dihydropyran (1.3 g) cooled in an ice bath was added (3R*,4R*)-3-methyl-1-pentyn-4-ol (1.3 g) followed by concentrated hydrochloric acid (1 drop) and the mixture was stirred for 16 h at room temperature. Potassium carbonate (100 mg) was added and the mixture stirred for 15 minutes. Diethyl ether (10 ml) was added and the mixture was filtered before evaporation to an oil. The residue was distilled to give the title compound (1.2 g) (b.p. 130°-5° C. at 10 mm Hg).

reactant | dihydropyran | 1.3 g | O1CCCC=C1 | C5H8O
reactant | (3R*,4R*)-3-methyl-1-pentyn-4-ol | 1.3 g | C[C@H](C#C)[C@@H](C)O | C6H10O
reactant | Potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | Diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (3R*,4R*)-3-Methyl-4-(tetrahydropyran-2-yloxy)-1-pentyne | 1.2 g | C[C@H](C#C)[C@@H](C)OC1OCCCC1 | C11H18O2
